US08022062B2
Benzothiazole-6-carboxylic acid methyl ester:
Add 1-methyl-3-nitro-1-nitrosoguanidine (5.0 g, 33.9 mmol) to a mixture of diethyl ether (20 mL) and 1N aqueous NaOH (20 mL) at ambient temperature. Separate the organic layer and add it slowly to a solution of benzothiazole-6-carboxylic acid (1.0 g, 5.58 mmol) in THF (50 mL) at 0° C. Evaporate the solvent to obtain the desired intermediate as a yellow solid (1.1 g, 100%). MS (ES+) m/z: 194 (M+H)+.

reactant | 1-methyl-3-nitro-1-nitrosoguanidine | 33.9 mmol, 5.0 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | diethyl ether | 20 mL | C(C)OCC | C4H10O
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
reactant | benzothiazole-6-carboxylic acid | 5.58 mmol, 1.0 g | S1C=NC2=C1C=C(C=C2)C(=O)O | C8H5NO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Benzothiazole-6-carboxylic acid methyl ester | 1.1 g, 100% | COC(=O)C1=CC2=C(N=CS2)C=C1 | C9H7NO2S
